US08802864B2
4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-({(3S)-1-[(1-methylcyclopropyl)carbonyl]-3-pyrrolidinyl}methyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
Into a 50 mL round bottom flask was placed 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.082 mmol). Added was 4N HCL in dioxane (1.0 mL). The solution was stirred at room temperature for 1 h and then was concentrated in vacuo. The solid was taken up in N,N-dimethylformamide (1 mL). Added to flask was 1-methylcyclopropanecarboxylic acid (0.100 mmol), 1-hydroxybenzotriazole (0.196 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.183 mmol), and N,N-diisopropylethylamine (0.286 mmol). The flask was capped and stirred at room temperature for 1 h. Purification of the crude material was performed by injecting the solution directly onto a reverse phase HPLC (10-40% acetonitrile w/0.1% TFA/water w/0.1% TFA). The desired fractions were combined and concentrated in vacuo. The recovered material was taken up in 1 mL dichloromethane and 1 mL acetonitrile. A 6 mL tube packed with PL-HCO3 (Stratospheres Solid Phase Extraction macroporous resin for Acid Removal, Varian Industries) was pretreated with 2 mL of dichloromethane. The product solution was added to the top of the resin via pipette and was allowed to freely pass through the column via gravity. The column was rinsed with dichloromethane (2 mL) and acetonitrile (2 mL). The recovered filtrate was concentrated in vacuo to afford the title compound (23 mg, 59%). MS(ES)+ m/e 472.2 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.082 mmol | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C27H28FN5O3
reactant | 1-methylcyclopropanecarboxylic acid | 0.100 mmol | CC1(CC1)C(=O)O | C5H8O2
reactant | 1-hydroxybenzotriazole | 0.196 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.183 mmol | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.286 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-({(3S)-1-[(1-methylcyclopropyl)carbonyl]-3-pyrrolidinyl}methyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 23 mg, 59% | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1(CC1)C)=O | C27H26FN5O2
